US06194420B1
Under nitrogen, 27.9 mL of triethylamine was added to the concentrated solution of 2,3-dichloro-6-nitrobenzylalcohol prepared in the previous step. To this solution, 14.6 mL of thionyl chloride was added via an addition funnel over 15 minutes. Following addition, the solution is heated to 45-50° C. for 18 hours, then cooled to room temperature under nitrogen. Water and toluene are added to the reaction mixture and the mixture filtered. The filtrate is diluted with water, and the aqueous layer removed. The organic layer is washed with water (4×40 mL), and dried by azeotropic distillation. The solution is concentrated to give 1,2-dichloro-3-chloromethyl-4-nitrobenzene which could be used without further purification.

reactant | triethylamine | 27.9 mL | C(C)N(CC)CC | C6H15N
reactant | 2,3-dichloro-6-nitrobenzylalcohol | ClC1=C(CO)C(=CC=C1Cl)[N+](=O)[O-] | C7H5Cl2NO3
reactant | thionyl chloride | 14.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,2-dichloro-3-chloromethyl-4-nitrobenzene | ClC1=C(C(=C(C=C1)[N+](=O)[O-])CCl)Cl | C7H4Cl3NO2
